US07196079B2
Step D. t-Butyl 4-{[2-(2-nitrophenyl)ethyl]amino}piperidine-1-carboxylate
A solution of 2-(2-aminoethyl)nitrobenzene (8.00 g, 48.1 mmol) and 1-t-butoxycarbonyl-4-piperidinone (9.59 g, 48.1 mmol) in methanol (100 mL) was brought to pH 5 by the addition of acetic acid. Sodium cyanoborohydride (4.53 g, 72.2 mmol) was added and the reaction stirred for 3 h. Methanol was removed in vacuo, and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was washed with saturated brine and dried over sodium sulfate. The title compound was obtained as an oil (19.27 g). MS 350 (M+1).

reactant | 2-(2-aminoethyl)nitrobenzene | 48.1 mmol, 8.00 g | NCCC1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O2
reactant | 1-t-butoxycarbonyl-4-piperidinone | 48.1 mmol, 9.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 72.2 mmol, 4.53 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | t-Butyl 4-{[2-(2-nitrophenyl)ethyl]amino}piperidine-1-carboxylate | [N+](=O)([O-])C1=C(C=CC=C1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O4
